US06610723B2
3-(3,4-Dichloro-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride (1:1)
To a suspension of sodium hydride (17 mg of a 55% dispersion in mineral oil, 0.39 mmol) in DMF (5 ml) was added 2-methylimidazole (32 mg, 0.39 mmol). This mixture was stirred for 1.5 h at 20° C. Following this, 3-chloromethyl-5-(3,4-dichloro-phenyl)-pyridine hydrochloride (1:1) (100 mg, 0.32 mmol) and triethylamine (78 mg, 0.78 mmol) were added and the mixture heated to 100° C. for 4 h. After cooling, the DMF was evaporated and the residue was directly chromatographed [silica, elution with CH2Cl2/(2M NH3 in MeOH)=85:15] to afford the free base of the title compound as a yellow oil. This material was dissolved in MeOH, cooled to 4° C. with stirring and treated with HCl/EtOH (1.46 M 1.1 eq) for 15 min. Evaporation of the solvent and drying under high vacuum at 50° C. for 2 h afforded the title compound (71 mg, 62%) as a light yellow solid. MS: m/e=317.1 (M+)

reactant | sodium hydride | [H-].[Na+]
reactant | 2-methylimidazole | 0.39 mmol, 32 mg | CC=1NC=CN1 | C4H6N2
reactant | 3-chloromethyl-5-(3,4-dichloro-phenyl)-pyridine hydrochloride | 0.32 mmol, 100 mg | Cl.ClCC=1C=NC=C(C1)C1=CC(=C(C=C1)Cl)Cl
reactant | triethylamine | 0.78 mmol, 78 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(3,4-Dichloro-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C=1C=NC=C(C1)CN1C(=NC=C1)C | InChI=1S/C16H13Cl2N3.ClH/c1-11-20-4-5-21(11)10-12-6-14(9-19-8-12)13-2-3-15(17)16(18)7-13;/h2-9H,10H2,1H3;1H
